US07723386B2
A dihydroxyacetone dimer (1 g, 0.55 mmol) was dissolved in 20 ml of methylene chloride, then 3.5 ml (2.2 mmol) of n-octanoic acid and 70 mg of dimethylaminobenzene were added thereto and, under cooling with ice, 4.6 g (1.2 mmol) of WS-DCC were added. After 2 hours, the mixture was concentrated and extracted with ethyl acetate and the extract was washed with water, 1N HCl and a saturated saline solution successively. After it was dried over anhydrous magnesium sulfate, it was concentrated in vacuo and the resulting residue was crystallized from cold hexane to give 3 g (8.7 mmol) of 1,3-dioctanoyloxyacetone (yield: 79%).

reactant | dihydroxyacetone dimer | 0.55 mmol, 1 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | n-octanoic acid | 2.2 mmol, 3.5 ml | C(CCCCCCC)(=O)O | C8H16O2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylaminobenzene | 70 mg | CN(C)C1=CC=CC=C1 | C8H11N
product | 1,3-dioctanoyloxyacetone | 8.7 mmol, 3 g, yield: 79% | C(CCCCCCC)(=O)OCC(=O)COC(CCCCCCC)=O | C19H34O5
